US04208408
An amount of 33.6 g. (0.315 mole) of benzylamine is added over a period of approximately 5 minutes to 41.4 g. (0.1 mole) of 1,3-bis-iodomethyl-1,1,3,3-tetramethyl-disiloxane with stirring in a bath at room temperature. Stirring is continued at room temperature for one hour. (A slurry resulted). Addition of 50 ml. of acetonitrile gives a clear solution which is then heated to reflux for 2 hours. The cooled solution is distributed between approximately 0.5 l. of pentane and 1.5 l. of water. The aqueous layer is then extracted with one more approximately 200 ml. portion of pentane, and the combined organic layer is washed twice with approximately 300 ml. of water, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to provide a clear yellow mobile liquid. This product is then vacuum distilled to give 4-benzyl-2,2,6,6-tetramethyl-1-oxa-4-aza-2,6-disilacyclohexane; b.p. 134° to 135° C., at 13 mm Hg.

reactant | benzylamine | 0.315 mole | C(C1=CC=CC=C1)N | C7H9N
reactant | 1,3-bis-iodomethyl-1,1,3,3-tetramethyl-disiloxane | 0.1 mole | IC[Si](O[Si](C)(C)CI)(C)C | C6H16I2OSi2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | pentane | CCCCC | C5H12
solvent | water | O | H2O
product | 4-benzyl-2,2,6,6-tetramethyl-1-oxa-4-aza-2,6-disilacyclohexane | C(C1=CC=CC=C1)N1C[Si](O[Si](C1)(C)C)(C)C | C13H23NOSi2
